US04404222
4-Amino-3,5-dichloro-β-methoxyphenethylamine hydrochloride
Under N2 atmosphere, 11 g of 4-amino-α-[(tert-butylamino)methyl]-3,5-dichlorobenzyl chloride is added to 75 ml of methanol at 0° C. After 20 minutes, the cooling bath is removed and the reaction mixture is stirred at ambient temperature. After the reaction is completed, the mixture is evaporated to dryness in vacuo. The residue is stirred in 75 ml of H2O and the mixture is made alkaline with 6 N NaOH solution and extracted with CH2Cl2 (3×50 ml). The organic phases are dried over MgSO4 and evaporated to dryness to afford an orange oil. This oil is dissolved in 150 ml of absolute EtOH and acidified with HCl/isopropyl alcohol solution to pH 2. The solution is evaporated to dryness and the residue is stirred in 75 ml of ethyl acetate. After cooling, this affords a pale yellow solid which is collected to give 6.97 g of the title compound, m.p. 195°-198° C. dec.

reactant | 4-amino-α-[(tert-butylamino)methyl]-3,5-dichlorobenzyl chloride | 11 g | NC1=C(C=C(C(CNC(C)(C)C)Cl)C=C1Cl)Cl | C12H17Cl3N2
reactant | methanol | 75 ml | CO | CH4O
reactant | HCl isopropyl alcohol | Cl.C(C)(C)O
solvent | EtOH | 150 ml | CCO | C2H6O
product | 4-Amino-3,5-dichloro-β-methoxyphenethylamine hydrochloride | 6.97 g | Cl.NC1=C(C=C(C(CN)OC)C=C1Cl)Cl | InChI=1S/C9H12Cl2N2O.ClH/c1-14-8(4-12)5-2-6(10)9(13)7(11)3-5;/h2-3,8H,4,12-13H2,1H3;1H
